### PR TITLE
refactor: change pset to a structure

### PR DESCRIPTION
**Pull request by Shreyas4991**
I was fiddling with ZFSets when I found that replacing PSets inductive definition with a structure simplified the file. Some proofs were using the wrong API lemmas. The new definition is as follows:

```lean
structure PSet : Type (u + 1) where
  «Type» : Type u
  Func : «Type» → PSet
```

Zulip thread : https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/PSets.20as.20structures.3F/near/625458978

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/ZFC/PSet.lean [hunk 1]
```diff
@@ -39,32 +39,13 @@ universe u v
   is a family of pre-sets indexed by a type in `Type u`.
   The ZFC universe is defined as a quotient of this
   to ensure extensionality. -/
-@[pp_with_univ, use_set_notation_for_order]
-inductive PSet : Type (u + 1)
-  | mk (α : Type u) (A : α → PSet) : PSet
+@[pp_with_univ, use_set_notation_for_order, ext]
+structure PSet : Type (u + 1) where
+  «Type» : Type u
```
Comment (intgrah) [inline Mathlib/SetTheory/ZFC/PSet.lean]:
```suggestion
  /-- The underlying type of a pre-set -/
  «Type» : Type u
```

File: Mathlib/SetTheory/ZFC/PSet.lean [hunk 2]
```diff
@@ -39,32 +39,13 @@ universe u v
...
+  Func : «Type» → PSet
```
Comment (intgrah) [inline Mathlib/SetTheory/ZFC/PSet.lean]:
```suggestion
  /-- The underlying pre-set family of a pre-set -/
  Func : «Type» → PSet
```

**Comment by eric-wieser** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/d2cfb58b98d05c0e0eb9432a2b6b303806ee137b?reference=0acbe13e167f256615da586346deba1c16fd1082) for d2cfb58b98d05c0e0eb9432a2b6b303806ee137b against 0acbe13e167f256615da586346deba1c16fd1082 are in. No significant results found. @Shreyas4991 @eric-wieser

- 🟥 `build//instructions`: **+8.6G** (**+0.01%**)

No significant changes detected.

File: Mathlib/SetTheory/ZFC/PSet.lean [hunk 3]
```diff
@@ -39,31 +39,15 @@ universe u v
   is a family of pre-sets indexed by a type in `Type u`.
   The ZFC universe is defined as a quotient of this
   to ensure extensionality. -/
-@[pp_with_univ, use_set_notation_for_order]
-inductive PSet : Type (u + 1)
-  | mk (α : Type u) (A : α → PSet) : PSet
+@[pp_with_univ, use_set_notation_for_order, ext]
+structure PSet : Type (u + 1) where
+  /-- The underlying type of a pre-set -/
+  «Type» : Type u
```
Comment (eric-wieser) [inline Mathlib/SetTheory/ZFC/PSet.lean]:
```suggestion
```

File: Mathlib/SetTheory/ZFC/PSet.lean [hunk 4]
```diff
@@ -39,32 +39,15 @@ universe u v
   is a family of pre-sets indexed by a type in `Type u`.
   The ZFC universe is defined as a quotient of this
   to ensure extensionality. -/
-@[pp_with_univ, use_set_notation_for_order]
-inductive PSet : Type (u + 1)
-  | mk (α : Type u) (A : α → PSet) : PSet
+@[pp_with_univ, use_set_notation_for_order, ext]
```
Comment (eric-wieser) [inline Mathlib/SetTheory/ZFC/PSet.lean]: I'm not convinced `ext` is useful here; I'd suggest adding it in a later PR, and only if you have a proof that uses it.

Comment (Shreyas4991) [reply Mathlib/SetTheory/ZFC/PSet.lean]: Done

File: Mathlib/SetTheory/ZFC/PSet.lean [hunk 5]
```diff
@@ -40,31 +40,14 @@ universe u v
...
-theorem mk_type (α A) : «Type» ⟨α, A⟩ = α :=
-  rfl
-
-@[simp]
-theorem mk_func (α A) : Func ⟨α, A⟩ = A :=
-  rfl
-
-@[simp]
-theorem eta : ∀ x : PSet, mk x.Type x.Func = x
-  | ⟨_, _⟩ => rfl
```
Comment (eric-wieser) [inline Mathlib/SetTheory/ZFC/PSet.lean:66]: I think these should be kept but deprecated (and de-`simp`ed)

Comment (Shreyas4991) [reply Mathlib/SetTheory/ZFC/PSet.lean]:
```
`[deprecated]` attribute should specify either a new name or a deprecation message
```
there is no new name to specify

Comment (Shreyas4991) [reply Mathlib/SetTheory/ZFC/PSet.lean:66]: I added deprecations. It was pointed out on discord that eta does not automatically hold for recursive structures. So I have added back the `eta` theorem. Note that I replaced the only current use of `eta` inside the library with `equiv_iff`. Nevertheless, since this API is still public, the consensus on discord leaned towards keeping eta.

**Review by vihdzp — APPROVED** [review]
This seems reasonable, though I still think that we should get rid of `PSet` eventually, and do things like they do over at [`FormalizedFormalLogic`](https://github.com/FormalizedFormalLogic/Foundation/blob/master/Foundation/FirstOrder/SetTheory/Universe.lean).

**Comment by Shreyas4991** [comment]
PSet already looks vaguely like a polynomial functor without universe parameters. 

Anyway, I hope there is nothing further needed to get this PR merged from my end.

File: Mathlib/SetTheory/ZFC/PSet.lean [hunk 6]
```diff
@@ -40,28 +40,24 @@ universe u v
...
-def «Type» : PSet → Type u
-  | ⟨α, _⟩ => α
-
-/-- The underlying pre-set family of a pre-set -/
-def Func : ∀ x : PSet, x.Type → PSet
-  | ⟨_, A⟩ => A
-
-@[simp]
+@[deprecated "these rules hold by reducible defeq for structure
+projection now" (since := "2026-09-20")]
```
Comment (eric-wieser) [inline Mathlib/SetTheory/ZFC/PSet.lean]:
```suggestion
@[deprecated "This now holds by reducible defeq for structure projection." (since := "2026-09-20")]
```
since this message will usually be seen in a context where "these" plural makes no sense.

File: Mathlib/SetTheory/ZFC/PSet.lean [hunk 7]
```diff
@@ -40,28 +40,23 @@ universe u v
...
-  | ⟨_, A⟩ => A
-
-@[simp]
+@[deprecated "This now holds by reducible defeq for structure projection." (since := "2026-09-20")]
 theorem mk_type (α A) : «Type» ⟨α, A⟩ = α :=
   rfl
 
-@[simp]
+@[deprecated "these rules hold by reducible defeq for structure
+projection now" (since := "2026-09-20")]
```
Comment (eric-wieser) [inline Mathlib/SetTheory/ZFC/PSet.lean]: Same comment here

**Comment by eric-wieser** [comment]
bors merge

Thanks!
